US04330554
To a well stirred solution of 5-acetylspiro[benzo-[b]furan-2(3H), 1'-cyclopropane]-3-one (1 g) in tetrahydrofuran (25 ml) and isopropanol (3 ml) was added portionwise NaBH4 (0.9 g) cooling at -50° C. The reaction mixture was then stirred at room temperature for 30 minutes, followed by dilution with ice-water, which was neutralized with aqueous ammonium chloride. The aqueous solution was extracted with ethyl acetate. The extract was washed with water and dried. The residue obtained by removal of the solvent was chromatographed on silica gel, eluting with CHCl3. The product was distilled under reduced pressure to give 5-(1-hydroxyethyl)spiro[benzo[b]furan-2(3H), 1'-cyclopropane]-3-one as colorless oil. b.p. 0.05 mmHg: 110° C. (bath temperature). IRνmaxfilm cm-1 : 3350(OH), 1710 (CO). NMR (CDCl3)δ: 1.45 (3H, d, J=6 Hz, CH3), 1.62 (4H, q, J=3 Hz, CH2), 3.33 (1H, b, OH), 4.83 (1H, q, J=6 Hz, CH), 6.97 (1H, d, J=9 Hz, aromat.H), 7.55 (2H, m, aromat.H).

reactant | 5-acetylspiro[benzo-[b]furan-2(3H), 1'-cyclopropane]-3-one | 1 g | C(C)(=O)C1=CC2=C(OC3(CC3)C2=O)C=C1 | C12H10O3
reactant | NaBH4 | 0.9 g | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | isopropanol | 3 ml | C(C)(C)O | C3H8O
product | 5-(1-hydroxyethyl)spiro[benzo[b]furan-2(3H), 1'-cyclopropane]-3-one | OC(C)C1=CC2=C(OC3(CC3)C2=O)C=C1 | C12H12O3
